US05952351
To a partial suspension of 4-(2-oxo-1-benzimidazolinyl)piperidine (1.085 gm, 5.0 mmol), which is commercially available, in 30 mL of methylene chloride under an argon atmosphere was added 1.37 gm (6.3 mmol) of di-t-butyl dicarbonate. After reaction was stirred at ambient temp. for 1 hour, the solvent was removed and the residue triturated with diethyl ether to give 1-t-butoxycarbonyl-4-(2-oxo-1-benzimidazolinyl)piperidine as an off-white solid, melting point 161-163° C.

reactant | 4-(2-oxo-1-benzimidazolinyl)piperidine | 5.0 mmol, 1.085 gm | O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | C12H15N3O
reactant | di-t-butyl dicarbonate | 6.3 mmol, 1.37 gm | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-t-butoxycarbonyl-4-(2-oxo-1-benzimidazolinyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C17H23N3O3
